US03980089
Preparation of N-(4-Pyridinyl)pyrrole
A 1-liter 3-neck flask equipped with stirrer, condenser, heating mantle, addition funnel and thermometer is charged with 47 g (0.5 mole) of 4-aminopyridine and 66 g (0.5 mole) of 2,5-dimethoxytetrahydrofuran. These materials are mixed together and 210 ml of glacial acetic acid is added dropwise with stirring over ten minutes while maintaining the temperature at less than 20°C.

reactant | 4-aminopyridine | 0.5 mole, 47 g | NC1=CC=NC=C1 | C5H6N2
reactant | 2,5-dimethoxytetrahydrofuran | 0.5 mole, 66 g | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 210 ml | C(C)(=O)O | C2H4O2
product | N-(4-Pyridinyl)pyrrole | N1=CC=C(C=C1)N1C=CC=C1 | C9H8N2
